### ISSUE TITLE
regression in nightly-2023-06-22

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#2282]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The change in handling of `Nat` literals in discrimination trees, which landed in the latest nightly, has some bad effects.

### Steps to Reproduce

```lean
class Zero'.{u} (α : Type u) where
  zero : α

instance Zero'.toOfNat0 {α} [Zero' α] : OfNat α (nat_lit 0) where
  ofNat := ‹Zero' α›.1

instance Nat.zero' : Zero' Nat where
  zero := 0

example : 
    0 = if (b : Bool) then 
      (@OfNat.ofNat.{0} Nat 0 (@Zero'.toOfNat0.{0} Nat (Nat.zero'))) 
    else 
      Nat.zero := by 
  simp
```

**Expected behavior:**

This worked on `nightly-2023-06-20`, but has broken on `nightly-2023-06-22`. This is minimised from problems seen at https://github.com/leanprover-community/mathlib4/pull/5409 (trying to bump mathlib4 to this nightly).

The original situation was closer to (requires mathlib4):
```lean
import Mathlib.Data.Nat.Order.Basic
example : 0 = if (b : Bool) then (@OfNat.ofNat.{0} Nat 0
      (@Zero.toOfNat0.{0} Nat
        (@AddMonoid.toZero.{0} Nat
          (@AddCommMonoid.toAddMonoid.{0} Nat
            (@OrderedAddCommMonoid.toAddCommMonoid.{0} Nat
              (@CanonicallyOrderedAddMonoid.toOrderedAddCommMonoid.{0} Nat
                (@CanonicallyOrderedCommSemiring.toCanonicallyOrderedAddMonoid.{0} Nat
                  Nat.canonicallyOrderedCommSemiring))))))) else Nat.zero := by simp
```

**Actual behavior:** [What actually happens]

```
unsolved goals
b: Bool
⊢ 0 = if b = true then OfNat.ofNat 0 else Nat.zero
```

**Reproduces how often:** Consistently

### Versions

Failure on `nightly-2023-06-22`, success on `nightly-2023-06-20`
